US08420817B2
N-(6-Acetoxy-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-3-yl)-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide
A solution of 0.25 g (0.87 mmol) of 5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxylic acid, prepared in step 1.1, 0.166 g (0.87 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide and 0.117 g (0.87 mmol) of N-1-hydroxybenzotriazole in 3 ml of dimethylformamide is stirred at 20° C. for 15 minutes. The reaction mixture is subsequently admixed with 0.245 g (1.04 mmol) of 6-acetoxy-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-3-amine (compound IV-b), in solution in 3 ml of dimethylformamide. The reaction mixture is subsequently stirred at 20° C. for 16 hours and then concentrated under reduced pressure, poured into 50 ml of water and extracted with three times 50 ml of ethyl acetate. The organic phases are combined, then washed with twice 20 ml of saturated sodium hydrogen carbonate solution, once with 20 ml of water and then once with 50 ml of saturated sodium chloride solution, dried over sodium sulfate and then concentrated under reduced pressure. The product obtained is purified by chromatography on a silica column, eluting with a mixture of dichloromethane and methanol. The product thus purified is finally triturated in hot diisopropyl ether and filtered while hot to give 0.27 g of the expected product.

reactant | 5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxylic acid | 0.87 mmol, 0.25 g | FC=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)F)C(=O)O | C16H11F2NO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 0.87 mmol, 0.166 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 6-acetoxy-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-3-amine | 1.04 mmol, 0.245 g | C(C)(=O)OC1CCN2C1=NC=1C2=NC=C(C1)N | C11H12N4O2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-(6-Acetoxy-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-3-yl)-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide | 0.27 g | C(C)(=O)OC1CCN2C1=NC=1C2=NC=C(C1)NC(=O)C=1N(C2=CC=C(C=C2C1)F)CC1=CC(=CC=C1)F | C27H21F2N5O3
